US09376422B2
Step 3: Synthesis of N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(oxan-4-yl)amino]-2-methyl-5-(1-methylazetidin-3-yl)benzamide
Methyl 3-[ethyl(oxan-4-yl)amino]-2-methyl-5-(1-methylazetidin-3-yl)benzoate (103 mg, 0.30 mmol) was dissolved in THF (20 ml) and MeOH (5 ml) and 2M NaOH (1.49 ml, 2.97 mmol) was added. The reaction was stirred at 50° C. for 16 h, cooled, acidified to pH4 using 6M HCl and the solvent evaporated under reduced pressure, and the residue dried in a vacuum oven at 40° C. for 5 h to afford the crude acid. To the acid in DMF (10 ml) were added HATU (170 mg, 0.45 mmol) and DIPEA (130 μl, 0.74 mmol). The mixture was stirred at room temperature for 5 min and then 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 66 mg, 0.39 mmol) was added. The reaction was stirred for 16 h after which additional HATU (80 mg) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (30 mg) and the mixture stirred a further 5 h. The reaction mixture was poured onto distilled after (50 ml), extracted with EtOAc (3×50 ml), washed with brine (2×20 ml), dried with Na2SO4, filtered and evaporated. The crude residue was purified using preparative HPLC and evaporated to afford the title compound as an off-white solid (28 mg, 5% over three steps). LC-MS 95%, m/z=467.3, 1H NMR (500 MHz, Acetone-d6) δ 10.73 (s, 1H), 7.61 (s, 1H), 7.30 (s, 1H), 7.26 (s, 1H), 5.97 (s, 1H), 4.74 (t, J=9.9 Hz, 2H), 4.60 (t, J=9.6 Hz, 2H), 4.38 (q, J=6.2 Hz, 3H), 3.83 (d, J=11.6 Hz, 2H), 3.27 (s, 3H), 3.23 (t, J=11.6 Hz, 2H), 3.10 (dd, J=14.1, 7.0 Hz, 2H), 3.04-2.97 (m, 1H), 2.34 (s, 3H), 2.31 (s, 3H), 2.25 (s, 3H), 1.67 (d, J=11.1 Hz, 2H), 1.56 (td, J=11.8, 4.1 Hz, 2H), 0.83 (t, J=7.0 Hz, 3H).

reactant | Methyl 3-[ethyl(oxan-4-yl)amino]-2-methyl-5-(1-methylazetidin-3-yl)benzoate | 0.30 mmol, 103 mg | C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C1CN(C1)C)C)C1CCOCC1 | C20H30N2O3
reactant | NaOH | 2.97 mmol, 2M, 1.49 ml | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
reactant | HATU | 0.45 mmol, 170 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.74 mmol, 130 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.39 mmol, 66 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | HATU | 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 30 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 5 ml | CO | CH4O
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(oxan-4-yl)amino]-2-methyl-5-(1-methylazetidin-3-yl)benzamide | 28 mg, 5% | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)C1CN(C1)C)N(C1CCOCC1)CC)C)=O | C27H38N4O3
